US05395941
Preparation of 2-tetrahydropyranyl (4s)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate
To a solution of 19 mg of (4R)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4 -(3-nitrophenyl )pyridine-3-carboxylic acid in 0.5 ml of tetrahydrofuran were added 5 mg of p-toluenesulfonic acid, and then 0.138 ml of 3,4-dihydro-2H-pyran. The mixture was stirred at room temperature for 5 hours. The reaction mixture was diluted with 5 ml of ethyl acetate, washed with water, and dried over anhydrous Glauber's salt (sodium sulfate), followed by distilling off the solvent under reduced pressure. The residue was purified using preparative TLC to obtain 16.4 mg of the objective compound.

reactant | (4R)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4 -(3-nitrophenyl )pyridine-3-carboxylic acid | 19 mg | C(#N)CCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H17N3O6
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 0.138 ml | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-tetrahydropyranyl (4s)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate | 16.4 mg | C(#N)CCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)OC1OCCCC1)C1=CC(=CC=C1)[N+](=O)[O-] | C23H25N3O7
